US09382243B2
(2R,3 S,5R)-5-((5-(4′-(1-amino-2,2,2-trifluoroethyl)-[1,1′-biphenyl]-4-yl)-6-chloro-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-2-(hydroxymethyl)tetrahydro-2H-pyran-3-ol
A 10 mL reaction vial was charged with (2R,3S,5R)-5-((6-chloro-5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-2-(hydroxymethyl)-tetrahydro-2H-pyran-3-ol (61.2 mg, 0.122 mmol), 1-(4-bromophenyl)-2,2,2-trifluoroethanamine (35 mg, 0.102 mmol), potassium phosphate tribasic (108 mg, 0.509 mmol), and [1,1′-[1,1′-Bis(Diphenyl-phosphino)-Ferrocene]Dichloropalladium (II) (14.89 mg, 0.020 mmol). The reaction vessel was evacuated and backfilled with N2 (×3), and degassed dioxane (339 μl) and water (339 μl) were added. The reaction was heated to 80° C. for 4 h, then diluted with water and EtOAc. The aqueous phase was extracted with EtOAc (×2); and the combined extracts were washed with brine, dried over Na2SO4, filtered, and concentrated. The resulting residue was purified by mass directed reverse phase HPLC eluted with acetonitrile in water containing 0.1% formic acid. The desired fractions were combined and lyophilized to give the title compound as a white solid. LC-MS: calculated for C26H24ClF3N4O4 548.14 observed m/e: 549.14 (M+H)+ (Rt 1.55/4 min); 1H NMR δ (ppm) (CD3OD): 7.90 (d, 1H), 7.84 (s, 1H), 7.78 (s, 4H), 7.67 (d, 2H), 5.42 (q, 1H), 5.12 (septet, 1H), 4.35 (dd, 1H), 3.88 (d, 1H), 3.66-3.59 (m, 2H), 3.37 (t, 1H), 3.18-3.15 (m, 1H), 2.76-2.74 (m, 1H), 1.69 (q, 1H).

reactant | (2R,3S,5R)-5-((6-chloro-5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-2-(hydroxymethyl)-tetrahydro-2H-pyran-3-ol | 0.122 mmol, 61.2 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)N=C(N2)O[C@@H]2C[C@@H]([C@H](OC2)CO)O | C24H29BClN3O6
reactant | 1-(4-bromophenyl)-2,2,2-trifluoroethanamine | 0.102 mmol, 35 mg | BrC1=CC=C(C=C1)C(C(F)(F)F)N | C8H7BrF3N
reactant | potassium phosphate tribasic | 0.509 mmol, 108 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
product | (2R,3 S,5R)-5-((5-(4′-(1-amino-2,2,2-trifluoroethyl)-[1,1′-biphenyl]-4-yl)-6-chloro-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-2-(hydroxymethyl)tetrahydro-2H-pyran-3-ol | NC(C(F)(F)F)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2)O[C@@H]2C[C@@H]([C@H](OC2)CO)O)Cl | C26H24ClF3N4O4
